US04874761
To a suspension of 95.6 g (0.716 mole) of aluminum chloride in 500 ml of methylene dichloride was added, rapidly and with stirring, a solution of 110.1 g (0.551 mole) of 2-methyl-3-nitrobenzoyl chloride in 400 ml of methylene dichloride The mixture was then transferred to an addition funnel, added with stirring to a solution of 9.8 g (0.551 mole) of anisole over a thirty minute period, and the reaction mixture then heated under reflux for two hours. The mixture was decomposed by the careful addition, with stirring, of 1 liter of water and then filtered. The organic layer was separated from the aqueous layer, dried and taken to dryness, and the residue recrystallized from ethyl acetate to give 102.9 g of 3-(4-methoxybenzoyl)2-methylnitrobenzene, m.p. 110°-113° C. Anal., Calcd. for C15H13NO4 : C, 66.41; H, 4.83; N, 5.16.5. Found: C, 66.33; H, 4.95; N, 4.98.

reactant | aluminum chloride | 0.716 mole, 95.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methyl-3-nitrobenzoyl chloride | 0.551 mole, 110.1 g | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
reactant | anisole | 0.551 mole, 9.8 g | C1(=CC=CC=C1)OC | C7H8O
reactant | water | 1 liter | O | H2O
solvent | methylene dichloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-methoxybenzoyl)2-methylnitrobenzene | 102.9 g | COC1=CC=C(C(=O)C=2C(=C(C=CC2)[N+](=O)[O-])C)C=C1 | C15H13NO4
